US04229348
Oxalyl chloride (5.3 g) was added to a solution of 2,3-diacetoxybenzamide (4.0 g) in 1,2-dichloroethane (40 ml) with stirring under cooling. The mixture was gradually heated to a reflux temperature and allowed to react under reflux for 10 hours. Then, the solvent and excess oxalyl chloride were distilled off under reduced pressure to give 2,3-diacetoxybenzoyl isocyanate, which was dissolved in anhydrous dichloromethane (40 ml) for the subsequent reaction.

reactant | Oxalyl chloride | 5.3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,3-diacetoxybenzamide | 4.0 g | C(C)(=O)OC1=C(C(=O)N)C=CC=C1OC(C)=O | C11H11NO5
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
product | 2,3-diacetoxybenzoyl isocyanate | C(C)(=O)OC1=C(C(=O)N=C=O)C=CC=C1OC(C)=O | C12H9NO6
